US05066665
Preparation of 4,4-Dimethyl-2-(4-pyridinylmethyl)-3-isoxazolidinone
A mixture of 4-picolyl chloride hydrochloride (1.4 g, 0.0084 mol), 4,4-dimethyl-3-isoxazolidinone (1.0 g, 0.0084 mol), potassium carbonate (3.6 g, 0.0261 mol), and 18-Crown-6 (0.10 g, 0.0004 mol) in acetonitrile (50 mL) is stirred at room temperature overnight. The reaction mixture is poured into ethyl acetate (50 mL) and the mixture washed with water (3×30 mL). The organic layer is dried (magnesium sulfate) and concentrated under reduced pressure to yield an oil. This oil is passed through a silica gel pad eluting with 4:1 chloroform:methanol. The filtrate is concentrated and converted to 1.4 g of the maleate salt of the title compound.

reactant | 4-picolyl chloride hydrochloride | 0.0084 mol, 1.4 g | Cl.N1=CC=C(C=C1)CCl
reactant | 4,4-dimethyl-3-isoxazolidinone | 0.0084 mol, 1.0 g | CC1(C(NOC1)=O)C | C5H9NO2
reactant | potassium carbonate | 0.0261 mol, 3.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | 18-Crown-6 | 0.0004 mol, 0.10 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | 4,4-Dimethyl-2-(4-pyridinylmethyl)-3-isoxazolidinone | CC1(C(N(OC1)CC1=CC=NC=C1)=O)C | C11H14N2O2
